US07985862B2
(Step 1) A mixture of 2-fluoro-5-(trifluoromethyl)benzonitrile (10 g) and sodium methanethiolate (4.08 g) was stirred in N,N-dimethylformamide (30 ml) at 80° C. for 14 hr. The reaction solution was treated with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed successively with aqueous sodium hydrogen carbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 2-(methylsulfanyl)-5-(trifluoromethyl)benzonitrile (7.71 g) as a solid.

reactant | 2-fluoro-5-(trifluoromethyl)benzonitrile | 10 g | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
reactant | sodium methanethiolate | 4.08 g | C[S-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(methylsulfanyl)-5-(trifluoromethyl)benzonitrile | 7.71 g | CSC1=C(C#N)C=C(C=C1)C(F)(F)F | C9H6F3NS
